US07456177B2
Preparation of 11-Allyl-8-oxo-11-aza-tricyclo[7.3.1.02,7]trideca-2,4,6-triene-6-carbaldehyde
11-Allyl-6-hydroxymethyl-11-aza-tricyclo[7.3.1.02,7]trideca-2,4,6-trien-8-ol (93 mg, 0.36 mmol) was dissolved dichloromethane (8 mL) and treated with N-methylmorpholine N-oxide monohydrate (73 mg, 0.54 mmol), powdered 4 Å molecular sieves (180 mg) and TPAP (TETRAPROPYLAMMONIUM PERRUTHENATE) 6.0 mg, 0.02 mmol). After 18 h, the mixture was stripped, dissolved in EtOAc and filtered through a silica gel pad. The organic layer was washed with H2O (2×30 mL), saturated aqueous NaCl solution (30 mL), dried over MgSO4, filtered and concentrated to give an oil (75 mg, 81%). (TLC 30% EtOAc/hexanes Rf 0.70); 1H NMR (400 MHz, CDCl3) δ 10.62 (s, 1H), 7.62 (dd, J=7.9, 1.4 Hz, 1H), 7.54 (dd, J=7.9, 7.3 Hz, 1H), 7.43 (d, J=7.3 Hz, 1H), 5.46 (m, 1H), 4.93 (m, 2H), 3.19 (m, 2H), 2.82 (m, 3H), 2.73 (br s, 1H), 2.48 (dd, J=10.9, 2.4 Hz, 1H), 2.35 (m, 2H), 1.96 (ddd, J=12.8, 5.4, 2.7 Hz, 1H); 13C NMR (CDCl3, 100 MHz, free base) δ 202.1, 194.5, 148.3, 138.0, 134.6, 134.0, 132.9, 131.6, 126.2, 117.3, 60.8, 57.8, 57.2, 44.1, 36.6, 32.0.

reactant | 11-Allyl-6-hydroxymethyl-11-aza-tricyclo[7.3.1.02,7]trideca-2,4,6-trien-8-ol | 0.36 mmol, 93 mg | C(C=C)N1CC2C(C3=C(C=CC=C3C(C1)C2)CO)O | C16H21NO2
reactant | dichloromethane | 8 mL | ClCCl | CH2Cl2
reactant | N-methylmorpholine N-oxide monohydrate | 0.54 mmol, 73 mg | O.C[N+]1(CCOCC1)[O-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | TPAP | 0.02 mmol, 6.0 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 11-Allyl-8-oxo-11-aza-tricyclo[7.3.1.02,7]trideca-2,4,6-triene-6-carbaldehyde | 75 mg, 81% | C(C=C)N1CC2C(C3=C(C=CC=C3C(C1)C2)C=O)=O | C16H17NO2
